Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2]([O:3][H:10])=[N:4]\[C:5](=[N:6]\[H:12])[H:11])([H:7])([H:8])[H:9],41.0025893320379
[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1](=[N+:2]1[C:3]([H:10])=[N:4][N:5]([H:7])[N-:6]1)([H:8])[H:9],112.30583267835199
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:14].[C@@:2]1([C:3]([H:11])([H:12])[H:13])([H:10])/[C:4](=[N:6]/[H:15])[O:5]1,82.9107070266368
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]1([H:8])[C:2]([H:9])=[O+:3][C-:4]([H:11])[C:5]([H:12])([H:13])[C:6]([H:10])=[N:7]1,94.9230615278393
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]1=[O+:6][C-:5]([H:12])[C:4]([H:10])([H:11])[C:3]1([H:8])[H:9])[H:7],93.3521811803503
[C:1]([C:2]([C:3]#[C:5][C:6](=[O:4])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],69.29690933018394
[C:1](/[C:2](=[C:7](\[C:6]([C:4](=[C:3]([H:12])[H:13])[O:5][H:14])([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],74.285677346409
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C+:4](=[C:6]=[C-:7][H:15])[H:13].[O:1]1[C:2]([H:9])([H:10])[C:3]1([H:11])[H:12].[O:5]([H:8])[H:14],89.3102291712836
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][O:7][C:6](=[C:5]([H:11])[H:12])[H:13])([H:9])[H:10])[H:8],86.6461489066844
[C:1]([C:2](=[N:3]\[H:10])/[N:4]=[C:5](/[O:6][H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],23.736132813455807
[O:1]=[C:2](/[C:3](=[C:4](\[C:6](=[O:5])[H:10])[H:9])[H:8])[H:7]>>[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10],109.20156169592279
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:6](=[C:5]=[C:3]=[O:4])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],68.68723601162189
[C:4](=[O:5])([C:6](=[O:7])[H:10])[H:9].[N:1](=[C:2]=[O:3])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],56.495250433282685
[N:1]([C:2](=[O:3])[O:7][C:6](=[O+:5][C-:4]([H:10])[H:11])[H:12])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],9.72770985578039
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]([C-:2]([C@@:3]1([H:9])[C:4]([H:10])=[N+:5]1[C:6](=[O:7])[H:12])[H:8])[H:11],94.5372201986286
[C:1]([C:2]([C:3]([O+:4]=[C-:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:15])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],15.165624662162095
[C:1]([C:2]([C@:3]1([H:11])[C:4](=[O:6])[N:5]1[H:12])=[C:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],18.960356461589402
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[H:7][H:10].[O:1]=[N:2][C:3]12[C:4]([H:8])([H:9])[N:5]1[C:6]2([H:11])[H:12],85.7488135144339
[N:1]([C:2]1=[C:5]([N:6]=[O:3])[C:4]1([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],41.20287085529998
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]([H:10])[H:12])([H:7])([H:8])[H:9].[N:4](=[C:5]=[O:6])[H:11],74.5812942489692
[C:1]([C:2]([C:3](=[C:4]([O-:5])[C+:6]([O:7][H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],5.749859790460107
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([H:10])([H:12])[H:13])[O:6][H:14])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],95.94010311186511
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]([O:5][H:15])=[O+:6][C-:7]([H:14])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],76.21307095916009
[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C@:3]3([H:11])[C:4]([H:12])([H:13])[C@@:7]1([H:15])[C@@:6]2([H:14])[C:5]3)([H:8])([H:9])[H:10],50.05633042623429
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:4](=[C:2]=[O+:3][O-:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],157.424451677496
